US05610177
d) Bis-(3,4-methylenedioxyphenylmethyl)acetyl-(α-methyl-D-tryptophan)
A solution of 0.36 g (0.66 mmol) of methyl bis-(3,4-methylenedioxyphenylmethyl)acetyl-(α-methyl-D-tryptophan) in 10 mL MeOH and 2 mL THF was treated with a solution of 0.133 g (3.3 mmol) of NaOH in 2 mL H2O and the solution stirred at room temperature for 2 days. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed twice with 1N HCl, then saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure gave the product. This was dissolved in Et2O and the solvent removed under reduced pressure to give 0.28 g (82.3% yield) of the product as an amorphous white solid. The structure was confirmed by NMR and mass spectroscopy.

reactant | methyl bis-(3,4-methylenedioxyphenylmethyl)acetyl-(α-methyl-D-tryptophan) | 0.66 mmol, 0.36 g | CC(C(=O)N[C@](CC1=CNC2=CC=CC=C12)(C(=O)O)C)(CC1=CC2=C(C=C1)OCO2)CC2=CC1=C(C=C2)OCO1 | C31H30N2O7
reactant | NaOH | 3.3 mmol, 0.133 g | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | Bis-(3,4-methylenedioxyphenylmethyl)acetyl-(α-methyl-D-tryptophan) | 0.28 g, 82.3% yield | C1OC=2C=C(C=CC2O1)CC(C(=O)N[C@](CC1=CNC2=CC=CC=C12)(C(=O)O)C)CC1=CC2=C(C=C1)OCO2 | C30H28N2O7
